US07138425B2
c) 2-(3-Nitro-6-propylaminophenyl)-5-trifluoromethylbenzoxazole
Prepared by the method of Example 54a), from 2-(3-nitro-6-fluorophenyl)-5-trifluoromethylbenzoxazole (218 mg, 0.8 mmol) and propylamine (328 μL, 4.0 mmol) the subtitle compound was obtained. The product was used directly in the next step without purification.

reactant | 2-(3-nitro-6-fluorophenyl)-5-trifluoromethylbenzoxazole | 0.8 mmol, 218 mg | [N+](=O)([O-])C=1C=C(C(=CC1)F)C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C14H6F4N2O3
reactant | propylamine | 4.0 mmol, 328 μL | C(CC)N | C3H9N
product | 2-(3-Nitro-6-propylaminophenyl)-5-trifluoromethylbenzoxazole | [N+](=O)([O-])C=1C=C(C(=CC1)NCCC)C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C17H14F3N3O3
